US04001239
A solution of benzhydryl 7-(2-carboxybenzamido)-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylate (2 mmol.) in 30 ml. of dry tetrahydrofuran is cooled in an ice-salt bath, and 0.28 ml. (2 mmol.) of triethylamine and 0.20 ml. (2 mmol.) of ethyl chloroformate are added. After cooling and stirring for 20 minutes, 0.106 ml. (2 mmol.) of N-methylhydrazine in 5 ml. of tetrahydrofuran is added. Stirring is continued for about 10 minutes. The Et3N.HCl salt is filtered, and the filtrate is evaporated to dryness. The residue is taken up in about 15 ml. of chloroform, and the mixture is allowed to stand at room temperature for about one hour during which time methylphthalhydrazide (m.p. 243°-245° C.) precipitates. Filtration and evaporation in vacuo of the filtrate gives crude benzhydryl 7-amino-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylate.

reactant | benzhydryl 7-(2-carboxybenzamido)-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylate | 2 mmol | C(=O)(O)C1=C(C(=O)NC2[C@@H]3N(C(=C(CS3)CSC=3SC(=NN3)C)C(=O)OC(C3=CC=CC=C3)C3=CC=CC=C3)C2=O)C=CC=C1 | C32H26N4O6S3
reactant | triethylamine | 2 mmol | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 2 mmol | ClC(=O)OCC | C3H5ClO2
reactant | N-methylhydrazine | 2 mmol | CNN | CH6N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | benzhydryl 7-amino-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylate | NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C24H22N4O3S3
